US04997836
A solution of di-tert-butyl dicarbonate (3.79 g) in dichloromethane (15 ml) is added dropwise, taking 5 minutes at 0 ° C while stirring, to a mixture of methyl 4-(benzyloxycarbonyl)piperazine-2-carboxylate (4.4 g) obtained in Reference Example 21, triethylamine (4 g) and dichloromethane (40 ml). The reaction mixture is stirred at room temperature for 2 hours. To the mixture is added water, followed by extraction with dichloromethane. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:ethyl acetate=2:1) to afford methyl 4-benzyloxycarbonyl-1-(tert-butoxycarbonyl)piperazine-2carboxylate (5.5 g) as a colorless oily product.

reactant | di-tert-butyl dicarbonate | 3.79 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 4-(benzyloxycarbonyl)piperazine-2-carboxylate | 4.4 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)C(=O)OC | C14H18N2O4
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | methyl 4-benzyloxycarbonyl-1-(tert-butoxycarbonyl)piperazine-2carboxylate | 5.5 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C19H26N2O6
